US07094769B2
Ethyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
To a suspension of ethyl 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylate (Preparation 62) (250 g, 0.530 moles) in absolute ethanol (1250 ml) under an atmosphere of nitrogen was added trifluoroacetic acid (73.5 g, 0.645 moles) and the resultant mixture was heated at 50° C. for 20 hours. The mixture was cooled and the solid was collected by filtration. The filter cake was washed with absolute ethanol (350 ml) and was then dried in vacuo at 50° C. to give the title compound (206.5 g) as a cream coloured fine powder, m.p. >200° C.

reactant | ethyl 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylate | 0.530 moles, 250 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OCC)C1OCCCC1)C1=CC=CC=C1 | C27H29N5O3
reactant | trifluoroacetic acid | 0.645 moles, 73.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 1250 ml | C(C)O | C2H6O
product | Ethyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 206.5 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)OCC)C1=CC=CC=C1 | C22H21N5O2
